US07635684B2
3-(β-D-Glucopyranosyloxy)-5-isopropyl-4-{[4-(2-{2-methyl-2-[(piperazin-1-yl)carbonyl]propionylamino}ethoxy)-2-methylphenyl]methyl}-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 13 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 1-benzyloxycarbonyl-4-[2-carboxy-2-(methyl)propionyl]piperazine instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole and 2-benzyloxycarbonylaminoacetic acid, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-aminoethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCN)C)C(C)C | C30H41N3O11
reactant | 1-benzyloxycarbonyl-4-[2-carboxy-2-(methyl)propionyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(C)(C)C(=O)O)=O | C17H22N2O5
reactant | 2-benzyloxycarbonylaminoacetic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
product | 3-(β-D-Glucopyranosyloxy)-5-isopropyl-4-{[4-(2-{2-methyl-2-[(piperazin-1-yl)carbonyl]propionylamino}ethoxy)-2-methylphenyl]methyl}-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCNC(C(C)(C(=O)N1CCNCC1)C)=O)C)C(C)C | C31H47N5O9
